US06159904
72-5) Synthesis of 6-acetyl-4-methoxymethyl-5,8-dimethylthiochroman
To a solution of 0.84 g (3.78 mmol) of 4-methoxymethyl-5,8-dimethylthiochroman and 0.60 g (4.54 mmol) of aluminum chloride in dichloroethane was dropwise added 0.36 g (4.54 mmol) of acetyl chloride at 0° C., and the mixture was further allowed to react at 0° C. for 1 hour. The reaction mixture was poured into ice water, and extracted with ethyl acetate. The extract was washed with a saturated sodium chloride aqueous solution, and an organic layer was dried over anhydrous sodium sulfate and filtered. Then, the solvent was distilled off under reduced pressure to give 0.30 g (yield 30%) of the titled compound as a crude product.

reactant | 4-methoxymethyl-5,8-dimethylthiochroman | 3.78 mmol, 0.84 g | COCC1CCSC2=C(C=CC(=C12)C)C | C13H18OS
reactant | aluminum chloride | 4.54 mmol, 0.60 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 4.54 mmol, 0.36 g | C(C)(=O)Cl | C2H3ClO
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | 6-acetyl-4-methoxymethyl-5,8-dimethylthiochroman | 0.30 g, yield 30% | C(C)(=O)C=1C(=C2C(CCSC2=C(C1)C)COC)C | C15H20O2S
